US04356302
To 10 parts pyridine hydrochloride heated to 170° under a stream of nitrogen is added 0.5 parts of 4-(4-methoxyphenyl)-5H-pyrido[3,4-b][1,4]benzothiazine-3(2H)-one in one portion. The reaction mixture is refluxed for 45 minutes, cooled, water is added and the solid which forms is collected and dried to yield 4-(4-hydroxyphenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one, m.p. greater than 300°.

reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | 4-(4-methoxyphenyl)-5H-pyrido[3,4-b][1,4]benzothiazine-3(2H)-one | COC1=CC=C(C=C1)C=1C(NC=C2SC3=C(NC21)C=CC=C3)=O | C18H14N2O2S
solvent | water | O | H2O
product | 4-(4-hydroxyphenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one | OC1=CC=C(C=C1)C=1C(NC=C2SC3=C(NC21)C=CC=C3)=O | C17H12N2O2S
